US07960404B2
Stage 2: 4-Benzyl-6′-fluoro-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]-indol]-4-amine (A-6)
A solution of the free base of 6′-fluoro-4′,9′-dihydro-N-(4-methoxybenzyl)-4-benzyl-spiro[cyclohexane-1,1′(3′H)-pyrano[3,4-b]indol]-4-amine citrate (200 mg, 0.4 mmol) in tetrahydrofuran (20 ml) and methanol (20 ml) was mixed with 10% palladium on activated carbon (40 mg) and hydrogenated for 7 h under 3 bar and at 40° C. Then the reaction mixture was filtered through a pleated filter, the filter residue was washed with methanol and the filtrate was concentrated to small volume under vacuum. The crude product (186 mg) was purified by flash chromatography (20 g, 21×2 cm) with methanol. Yield: 136 mg (64%), beige-coloured solid. Melting point 198-205° C. (decomposition).

reactant | 6′-fluoro-4′,9′-dihydro-N-(4-methoxybenzyl)-4-benzyl-spiro[cyclohexane-1,1′(3′H)-pyrano[3,4-b]indol]-4-amine citrate | 0.4 mmol, 200 mg | C(CC(O)(C(=O)O)CC(=O)O)(=O)O.FC=1C=C2C3=C(NC2=CC1)C1(OCC3)CCC(CC1)(NCC1=CC=C(C=C1)OC)CC1=CC=CC=C1
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium on activated carbon | 40 mg | [Pd] | Pd
product | 4-Benzyl-6′-fluoro-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]-indol]-4-amine | C(C1=CC=CC=C1)C1(CCC2(OCCC3=C2NC2=CC=C(C=C32)F)CC1)N | C23H25FN2O
